US07022707B2
2,6-Difluoro-4-(2-propenyl)oxybenzyl cis-2,6-dimethylpiperazine-1-carboxylate was prepared from 2,6-difluoro-4-hydroxybenzyl alcohol, allyl bromide and cis 1-chlorocarbonyl-2,6-dimethyl-4-tert-butoxycarbonylpiperazine according to the methods described for Examples 54 and 96: NMR δH (400 MHz, DMSO-d6) 1.25 (6H, d, J 6.9 Hz), 2.75–2.87 (4H, m), 4.04 (2H, m), 4.51 (2H, dt, J 5.3, 1.5 Hz), 5.14 (2H, s), 5.32 (1H, dq, J 10.5, 1.5 Hz), 5.41 (1H, dq, J 17.3, 1.5 Hz), 6.00 (1H, ddt, J 17.3, 10.5, 5.3 Hz) and 6.45 (2H, m), NH not observed; HPLC (XTERRA, 50/80, 220 nm) 97.3% (3.89 min).

reactant | 2,6-difluoro-4-hydroxybenzyl alcohol | FC1=C(CO)C(=CC(=C1)O)F | C7H6F2O2
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | cis 1-chlorocarbonyl-2,6-dimethyl-4-tert-butoxycarbonylpiperazine | ClC(=O)N1[C@H](CN(C[C@H]1C)C(=O)OC(C)(C)C)C | C12H21ClN2O3
product | 2,6-Difluoro-4-(2-propenyl)oxybenzyl cis-2,6-dimethylpiperazine-1-carboxylate | C[C@@H]1N([C@@H](CNC1)C)C(=O)OCC1=C(C=C(C=C1F)OCC=C)F | C17H22F2N2O3
